US06169107A
A mixture of 0.16 g (0.51 mmol) of ethyl 1-methyl-7-(2-phenylethylamino)-2-indolecarboxylate, 0.49 g (5.09 mmol) of guanidine hydrochloride and 0.28 g (5.09 mmol) of sodium methoxide in 10 ml of methanol was reacted in a manner similar to Example 1 to give 0.075 g (39.5%) of 1-methyl-7-(2-phenylethylamino)-2-indoloylguanidine hydrochloride.

reactant | ethyl 1-methyl-7-(2-phenylethylamino)-2-indolecarboxylate | 0.51 mmol, 0.16 g | CN1C(=CC2=CC=CC(=C12)NCCC1=CC=CC=C1)C(=O)OCC | C20H22N2O2
reactant | guanidine hydrochloride | 5.09 mmol, 0.49 g | Cl.NC(=N)N
reactant | sodium methoxide | 5.09 mmol, 0.28 g | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 1-methyl-7-(2-phenylethylamino)-2-indoloylguanidine hydrochloride | 0.075 g, 39.5% | Cl.CNC(=NC(=O)C=1NC2=C(C=CC=C2C1)NCCC1=CC=CC=C1)N | InChI=1S/C19H21N5O.ClH/c1-21-19(20)24-18(25)16-12-14-8-5-9-15(17(14)23-16)22-11-10-13-6-3-2-4-7-13;/h2-9,12,22-23H,10-11H2,1H3,(H3,20,21,24,25);1H
